US06451740B2
Into a mixture of 25 ml of acetic acid and 25 ml of water was added 9.5 g of an iron powder, and the mixture was heated to 80° C. Into the mixture was added dropwise a solution composed of 10.0 g of N-[2-fluoro-5-(2-hydroxyphenoxy)-4-nitrophenyl]acetamide and 100 ml of ethyl acetate. The mixture was heated for 1 hour under reflux, then, poured into water, extracted with ethyl acetate, the organic layer was washed with water, and washed with saturated aqueous sodium bicarbonate, dried over magnesium sulfate, and concentrated to obtain 7.42 g of N-[4-amino-2-fluoro-5-(2-hydroxyphenoxy)phenyl]acetamide.

reactant | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
reactant | N-[2-fluoro-5-(2-hydroxyphenoxy)-4-nitrophenyl]acetamide | 10.0 g | FC1=C(C=C(C(=C1)[N+](=O)[O-])OC1=C(C=CC=C1)O)NC(C)=O | C14H11FN2O5
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | iron | 9.5 g | [Fe] | Fe
solvent | water | O | H2O
solvent | water | 25 ml | O | H2O
product | N-[4-amino-2-fluoro-5-(2-hydroxyphenoxy)phenyl]acetamide | 7.42 g | NC1=CC(=C(C=C1OC1=C(C=CC=C1)O)NC(C)=O)F | C14H13FN2O3
